US07795284B2
14.5) N,N′-(oxydiethane-2,1-diyl)bis(5-([2-(dimethylamino)ethyl]amino}-4,7-dioxo-4,7-dihydro-1,3-benzothiazole-2-carboxamide)
81 μl (0.73 mmol; 2 eq.) of N,N-dimethylethylenediamine is added to 200 mg of N,N′-(oxydiethane-2,1-diyl)bis(5-methoxy-4,7-dioxo-4,7-dihydro-1,3-benzothiazole-2-carboxamide) in solution in 300 ml of anhydrous ethanol. The reaction mixture is stirred at 60° C. for 4 hours then the solvent is evaporated off under reduced pressure. The residue is purified on a silica column (eluent: methanol in dichloromethane: gradient of 0 to 20% over 30 minutes then for 15 minutes with 20% of methanol in dichloromethane) and 12 mg (yield=5%) of expected compound is obtained in the form of a red powder.

reactant | N,N-dimethylethylenediamine | 0.73 mmol, 81 μl, 2 eq. | CN(CCN)C | C4H12N2
reactant | N,N′-(oxydiethane-2,1-diyl)bis(5-methoxy-4,7-dioxo-4,7-dihydro-1,3-benzothiazole-2-carboxamide) | 200 mg | O(CCNC(=O)C=1SC2=C(N1)C(C(=CC2=O)OC)=O)CCNC(=O)C=2SC1=C(N2)C(C(=CC1=O)OC)=O | C22H18N4O9S2
reactant | methanol | CO | CH4O
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N,N′-(oxydiethane-2,1-diyl)bis(5-([2-(dimethylamino)ethyl]amino}-4,7-dioxo-4,7-dihydro-1,3-benzothiazole-2-carboxamide) | 12 mg, yield=5% | O(CCNC(=O)C=1SC2=C(N1)C(C(=CC2=O)NCCN(C)C)=O)CCNC(=O)C=2SC1=C(N2)C(C(=CC1=O)NCCN(C)C)=O | C28H34N8O7S2
